* gnetlist -g spice-noqsi -o divide_by_two.net divide_by_two.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.INCLUDE ./simulation.cmd
MD1.M4 D2_D_bar D2_D Vdd Vdd pch  l=1u w=2u         
MD1.M3 D2_D D2_D_bar Vdd Vdd pch  l=1u w=2u         
MD1.M1 D2_D D1_D D1/M5_D D1/M5_D nch  l=1u w=1u         
MD1.M2 D2_D_bar D1_D_bar D1/M5_D D1/M5_D nch  l=1u w=1u         
MD1.M5 D1/M5_D clk GND GND nch  l=1u w=8u         
MD2.M4 D1_D D1_D_bar Vdd Vdd pch  l=1u w=2u         
MD2.M3 D1_D_bar D1_D Vdd Vdd pch  l=1u w=2u         
MD2.M1 D1_D_bar D2_D D2/M5_D D2/M5_D nch  l=1u w=1u         
MD2.M2 D1_D D2_D_bar D2/M5_D D2/M5_D nch  l=1u w=1u         
MD2.M5 D2/M5_D 4 GND GND nch  l=1u w=8u         

VCLK 8 GND pulse 0 1 10n 10n 100n 1u 2u
VDD Vdd GND vdd
toprail Vdd   
X1 8 clk  INV1P 
X2 clk 4  INV1P 
