* gnetlist -g spice-noqsi -o divide_by_two.net divide_by_two.sch
* SPICE file generated by spice-noqsi version 20130710
* Send requests or bug reports to jpd@noqsi.com
.INCLUDE ./simulation.cmd
MD1.M4 D2_D D2_D_bar Vdd Vdd pch  l=1u w=2u         
MD1.M3 D2_D_bar D2_D Vdd Vdd pch  l=1u w=2u         
MD1.M1 D2_D_bar d1_d D1.M5_D D1.M5_D nch  l=1u w=1u         
MD1.M2 D2_D d1_d_bar D1.M5_D D1.M5_D nch  l=1u w=1u         
MD1.M5 D1.M5_D VCLK_1 GND GND nch  l=1u w=8u         
MD2.M4 d1_d_bar d1_d Vdd Vdd pch  l=1u w=2u         
MD2.M3 d1_d d1_d_bar Vdd Vdd pch  l=1u w=2u         
MD2.M1 d1_d D2_D D2.M5_D D2.M5_D nch  l=1u w=1u         
MD2.M2 d1_d_bar D2_D_bar D2.M5_D D2.M5_D nch  l=1u w=1u         
MD2.M5 D2.M5_D VCLK_2 GND GND nch  l=1u w=8u         

Vd Vdd GND Vdd
X1 VCLK VCLK_1  INV1 
X2 VCLK_1 VCLK_2  INV1 
.GLOBAL Vdd gnd Vss
.param Vdd=1.2v
VCLK VCLK GND pulse 0 Vdd 0.1n 0.05n 0.05n 0.5n 1n
Vs unconnected_pin-1 GND Vss
.param Vss=0v
